US07906517B2
(3,5-Bis-trifluoromethyl-benzyl)-(5-bromo-pyrimidin-2-yl)-amine (8.55 g) is dissolved in N,N-dimethylformamide (20 ml), and thereto is added sodium hydride (60%) (855 mg) under ice-cooling, and the mixture is stirred for 15 minutes. To the reaction solution are added 2-bromomethyl-1-fluoro-4-trifluoromethyl-benzene (5 g), and the mixture is stirred at room temperature overnight. To the reaction solution are added water and ethyl acetate, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=1:0→9:1) to give (3,5-bis-trifluoromethyl-benzyl)-(5-bromo-pyrimidin-2-yl)-(2-fluoro-5-trifluoromethyl-benzyl)-amine (11.1 g). MS (m/z): 576/578 [M+H]+

reactant | (3,5-Bis-trifluoromethyl-benzyl)-(5-bromo-pyrimidin-2-yl)-amine | 8.55 g | FC(C=1C=C(CNC2=NC=C(C=N2)Br)C=C(C1)C(F)(F)F)(F)F | C13H8BrF6N3
reactant | sodium hydride | 855 mg | [H-].[Na+]
reactant | 2-bromomethyl-1-fluoro-4-trifluoromethyl-benzene | 5 g | BrCC1=C(C=CC(=C1)C(F)(F)F)F | C8H5BrF4
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3,5-bis-trifluoromethyl-benzyl)-(5-bromo-pyrimidin-2-yl)-(2-fluoro-5-trifluoromethyl-benzyl)-amine | 11.1 g | FC(C=1C=C(CN(CC2=C(C=CC(=C2)C(F)(F)F)F)C2=NC=C(C=N2)Br)C=C(C1)C(F)(F)F)(F)F | C21H12BrF10N3
